US05280032
A mixture of 4.30 g of 4-benzyl-2-hydroxymethylmorpholine, 930 mg of potassium tert-butoxide and 4 ml of dimethyl sulfoxide was heated to 80° C. Thereto was dropwise added 2.50 g of styrene oxide over 20 minutes. The resulting mixture was stirred for 2 hours at the same temperature. The reaction mixture was added to a mixture of 30 ml of diethyl ether and 30 ml of ice water. The organic layer was separated and mixed with 10 ml of water. The mixture was adjusted to pH 2.0 with 6N hydrochloric acid. The aqueous layer was separated and mixed with 30 ml of diethyl ether. The mixture was adjusted to pH 11 with a 2N-aqueous sodium hydroxide solution. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: toluene/ethyl acetate=1/1) to obtain 2.00 g of oily 1-phenyl-2-[(4-benzylmorpholin-2-yl)methoxy]ethanol (compound No. 144).

reactant | 4-benzyl-2-hydroxymethylmorpholine | 4.30 g | C(C1=CC=CC=C1)N1CC(OCC1)CO | C12H17NO2
reactant | potassium tert-butoxide | 930 mg | CC(C)([O-])C.[K+]
reactant | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
reactant | styrene oxide | 2.50 g | C1C(C2=CC=CC=C2)O1 | C8H8O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 1-phenyl-2-[(4-benzylmorpholin-2-yl)methoxy]ethanol | 2.00 g | C1(=CC=CC=C1)C(COCC1CN(CCO1)CC1=CC=CC=C1)O | C20H25NO3
